US07612075B2
To a solution containing (R)-2-benzyloxycarbonylamino-3-methyl-thiobutyric acid S-ethyl ester (5.2 g, 17.6 mmol) in acetone (100 mL) is added Pd-on-C (10%, 233 mg). The heterogeneous mixture is cooled to 0° C. and Et3SiH (8.4 mL, 53 mmol) is quickly added. After 30 min, the reaction mixture is filtered through a pad of celite and the clear filtrate is concentrated to a residue which is partitioned between hexane (200 mL) and acetonitrile (300 mL). The layers are separated and the ACN phase is washed once with hexane (100 mL) and then concentrated to afford crude (R)-(1-Formyl-2-methyl-propyl)-carbamic acid benzyl ester (4.13 g) which is used directly without further purification. 1H NMR (300 MHz, CDCl3) δ2.30 (m, 1H), 4.31 (m, 1H), 5.09 (s, 2H), 5.45 (br, 1H), 7.30-7.45 (m, 5H), 9.65 (s, 1H) ppm.

reactant | (R)-2-benzyloxycarbonylamino-3-methyl-thiobutyric acid S-ethyl ester | 17.6 mmol, 5.2 g | C(C)SC([C@@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C15H21NO3S
reactant | Et3SiH | 53 mmol, 8.4 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | acetone | 100 mL | CC(=O)C | C3H6O
catalyst | Pd | 233 mg | [Pd] | Pd
product | (R)-(1-Formyl-2-methyl-propyl)-carbamic acid benzyl ester | 4.13 g | C(C1=CC=CC=C1)OC(N[C@H](C(C)C)C=O)=O | C13H17NO3
